US05767116
A mixture of 4-carbamoyl-1-phenylpyridinium chloride (13 g), 10% palladium-on-carbon catalyst (260 mg) and ethanol (250 ml) was hydrogenated at ambient temperature and pressure for 2 days. The solution was filtered (Celite) and the filtrate was concentrated to approximately 50 ml. This solution was cooled and the solid precipitate collected by filtration to give 1-phenylpiperidine-4-carboxamide (5.99 g).

reactant | 4-carbamoyl-1-phenylpyridinium chloride | 13 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=CC=CC=C1
catalyst | palladium-on-carbon | 260 mg | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-phenylpiperidine-4-carboxamide | 5.99 g | C1(=CC=CC=C1)N1CCC(CC1)C(=O)N | C12H16N2O
